US08106215B2
A.3.3 Synthesis of (1S,2S,5R)-2-hydroxymethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester
A mixture of (1S,2S,5R)-3-benzyl-2-hydroxymethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane (342 mg), Pd—C (50% H2O) (277 mg), Boc2O (456 mg, 1.5 eq) in EA (13 mL) was stirred under hydrogen (1 bar) for 16 h. After filtration through celite and removal of the solvents the title compound was obtained as a yellow oil.

reactant | (1S,2S,5R)-3-benzyl-2-hydroxymethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane | 342 mg | C(C1=CC=CC=C1)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CO | C16H23NO
reactant | Boc2O | 456 mg, 1.5 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EA | 13 mL | CC(OCC)=O | C4H8O2
catalyst | Pd—C | 277 mg | [Pd] | Pd
product | (1S,2S,5R)-2-hydroxymethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CO | C14H25NO3
